Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
aminophylline / codeine / aspirin / raw onions / raw spinach / 
Zofran (as hydrochloride)
 
Attending: ___.
 
Chief Complaint:
Pancreatic cancer 
 
Major Surgical or Invasive Procedure:
___: 
1. Pylorus preserving pancreaticodyodenectomy (Whipple 
procedure). 
2. Open cholecystectomy.

 
History of Present Illness:
The patient is a ___ F with PMH significant for GERD, 
asthma, asymptomatic bradycardia, osteoporosis, ocular 
migraines, frontal meningioma
(stable), cerebral aneurysm, thalassemia trait carrier, HPV and 
newly diagnosed pancreatic adenocarcinoma. She has completed 
neoadjuvent chemotherapy and today presents for planned Whipple.

 
Past Medical History:
reflux, asthma, bradycardia,osteoporosis, ocular migraines, 
frontal meningioma (stable), cerebral aneurysm, thalassemia 
trait carrier, HPV, essential tremor

 
Social History:
___
Family History:
PGF - stomach cancer diagnosed in ___
MGF - throat cancer
F - lung and stomach cancer, diagnosed at ___
Brother - pancreatic, diagnosed at ___
Brother - colon cancer w/ mets to liver, diagnosed in ___
Sister - breast cancer, diagnosed at ___
Sister - breast cancer, diagnosed at ___
Daughter - thyroid cancer, s/p thyroidectomy, age ___
Nephew - thyroid cancer, s/p thyroidectomy

 
Physical Exam:
Prior to Discharge:
VS: 98.8, 86, 125/51, 18, 98% RA
GEN: Pleasant with NAD
CV: RRR, no m/r/g
PULM: CTAB
ABD: Subcostal incision with staples and c/d/I. RLQ old JP site 
with DSD and minimal serosanguinous stain. 
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 04:40PM BLOOD WBC-10.3*# RBC-4.27 Hgb-9.1* Hct-30.0* 
MCV-70* MCH-21.3* MCHC-30.3* RDW-17.9* RDWSD-44.4 Plt ___
___ 06:10AM BLOOD WBC-3.2* RBC-3.67* Hgb-7.7* Hct-25.4* 
MCV-69* MCH-21.0* MCHC-30.3* RDW-16.2* RDWSD-40.3 Plt ___
___ 06:05AM BLOOD Glucose-93 UreaN-7 Creat-0.6 Na-142 K-3.5 
Cl-104 HCO3-32 AnGap-10
___ 08:47AM BLOOD Glucose-121* Lactate-1.1 Na-140 K-3.4 
Cl-105 calHCO3-26
___ 02:03PM BLOOD Glucose-132* Lactate-3.0* Na-138 K-3.9 
Cl-106
___ 05:01PM OTHER BODY FLUID Amylase-26
___ 05:56PM ASCITES Amylase-31

FINAL PATHOLOGY: Pending 
 
Brief Hospital Course:
The patient was admitted to the ___ Surgical Service on ___ 
for elective resection of pancreatic mass.  On ___, the 
patient underwent pylorus-preserving pancreaticoduodenectomy 
(Whipple), SMV repair, and open cholecystectomy, which went well 
without complication (reader referred to the Operative Note for 
details). After a brief, uneventful stay in the PACU, the 
patient arrived on the floor NPO with an NG tube, on IV fluids, 
with a foley catheter and a JP drain in place, and epidural 
catheter for pain control.  The patient was hemodynamically 
stable.
The ___ hospital course was uneventful and followed the 
Whipple Clinical Pathway without deviation.  Post-operative pain 
was initially well controlled with epidural analgesia, which was 
converted to oral pain medication when tolerating clear liquids. 
The NG tube was discontinued on POD# 2, and the foley catheter 
discontinued at midnight of POD# 5. The patient subsequently 
voided without problem. The patient was started on sips of 
clears on POD# 3, which was progressively advanced as tolerated 
to a regular diet by POD# 6.  JP amylase was sent in the evening 
of  POD# 5 and 6; the JP was discontinued on POD# 6 as the 
output and amylase level were low.
During this hospitalization, the patient ambulated early and 
frequently with physical therapy, was adherent with respiratory 
toilet and incentive spirrometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay. Patient was started 
on Aspirin on POD 1, and SC Lovenox on POD 6 for DVT 
prophylactics. The patient's blood sugar was monitored regularly 
throughout the stay; sliding scale  insulin was administered 
when indicated. 
At the time of discharge on ___, the patient was doing 
well, afebrile with stable vital signs.  The patient was 
tolerating a regular diet, ambulating, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged in rehabilitation to continue ___. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.

 
Medications on Admission:
oxycodone and lorazepam p.r.n., Imodium p.r.n., Protonix daily, 
magnesium oxide daily, ProAir p.r.n. marijuana
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain 
do not exceed more then 3000 mg/day 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Aspirin ___AILY 
patient can take PO Aspirin if she prefer.  
4. Creon 12 2 CAP PO TID W/MEALS 
5. Docusate Sodium 100 mg PO BID 
do not take this medication if having diarrhea 
6. Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
stop on ___. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*80 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
9. Senna 8.6 mg PO BID 
do not take if having diarrhea 
10. Sodium Chloride Nasal ___ SPRY NU QID:PRN Dryness/congestion 

11. Magnesium Oxide 400 mg PO DAILY 
12. LOPERamide 2 mg PO TID:PRN diarrhea 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pancreatic adenocarcinoma (final pathology pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
resection of your pancreatic head mass. You have done well in 
the post operative period and are now safe to return home to 
complete your recovery with the following instructions:
.
Please call Dr. ___ office at ___ if you have any 
questions or concerns. 
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___